US07759363B2
f. Synthesis of 2-tert-butyl-1H-benzoimidazole-4-carboxylic acid (1-piperidin-4-ylmethylpiperidin-4-ylmethyl)amide
Crude 4-(4-{[(2-tert-butyl-1H-benzoimidazole-4-carbonyl)amino]methyl}-piperidin-1-ylmethyl)piperidine-1-carboxylic acid tert-butyl ester, prepared as in the previous step (5.1 g, 10 mmol) was treated with a mixture of trifluoroacetic acid (40 mL) and dichloromethane (40 mL) at room temperature for 0.5 h. The mixture was concentrated in vacuo, redissolved in dichloromethane (25 mL) and basified with 1M aqueous sodium hydroxide (15 mL). The organic layer was removed, and the aqueous layer re-extracted with dichloromethane. The combined organic phases were dried over sodium sulfate, filtered, and concentrated in vacuo to afford the desired product as a brown foam (3.6 g, 8.8 mmol, 88%). (m/z): [M+H]+ calcd for C24H37N5O 412.31, found 412.6.

reactant | 4-(4-{[(2-tert-butyl-1H-benzoimidazole-4-carbonyl)amino]methyl}-piperidin-1-ylmethyl)piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1CCC(CC1)CNC(=O)C1=CC=CC=2NC(=NC21)C(C)(C)C | C29H45N5O3
reactant | trifluoroacetic acid | 40 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 2-tert-butyl-1H-benzoimidazole-4-carboxylic acid (1-piperidin-4-ylmethylpiperidin-4-ylmethyl)amide | 8.8 mmol, 3.6 g, 88% | N1CCC(CC1)CN1CCC(CC1)CNC(=O)C1=CC=CC=2NC(=NC21)C(C)(C)C | C24H37N5O
